* Short pulse from an input step
VCC VCC 0 3.3
VIN IN 0 PULSE(0 3.3 0.5m 1u 1u 2m 4m)
RB1 IN B1 10k
Q1 X B1 0 0 Q_NPN
RC1 VCC X 1k
CT X B2 {C}
RB2 VCC B2 10k
Q2 OUT B2 0 0 Q_NPN
RC2 VCC OUT 1k
.tran 0 0.005 0 2e-07
.temp 27
.options reltol=1e-5 plotwinsize=0
.step param C list 22n 47n 100n
.model Q_NPN NPN(Is=1e-14 Bf=150 Vaf=100 Cje=10p Cjc=4p Tf=300p)
.save V(B1) V(B2) V(IN) V(OUT) V(VCC) V(X) I(VCC) I(VIN) I(RB1) Ic(Q1) Ib(Q1) I(RC1) I(CT) I(RB2) Ic(Q2) Ib(Q2) I(RC2)
.end
